US04223142
(b) 5-Cyano-6-formyl-2-[(1-methylpropyl)amino]-3-pyridine-carboxylic acid, ethyl ester
26.1 g of 5-cyano-6-methyl-2-[(1-methylpropyl)amino]-3-pyridine-carboxylic acid, ethyl ester (0.1 mol) and 13 g of selenium dioxide are refluxed together in dioxane for 24 hours. After this time the selenium is filtered off and the solvent removed in vacuo. The resulting oily residue is crystallized with ether. Yield 19 g (69%); m.p. 37°-38° C. (methanol).

reactant | 5-cyano-6-methyl-2-[(1-methylpropyl)amino]-3-pyridine-carboxylic acid, ethyl ester | 0.1 mol, 26.1 g | C(#N)C=1C=C(C(=NC1C)NC(CC)C)C(=O)OCC | C14H19N3O2
reactant | selenium dioxide | 13 g | [Se](=O)=O | O2Se
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-Cyano-6-formyl-2-[(1-methylpropyl)amino]-3-pyridine-carboxylic acid, ethyl ester | C(#N)C=1C=C(C(=NC1C=O)NC(CC)C)C(=O)OCC | C14H17N3O3
